US07220744B2
(2-Morpholin-4-yl-5-nitro-phenyl)-[4-(3-phenyl-[1,2,4]thiadiazol-5-yl)-piperazin-1-yl]-methanone
Prepared in analogy to example 1 (b) from 2-morpholin-4-yl-5-nitro-benzoic acid (Example A27) and 3-phenyl-5-piperazino-1,2,4-thiadiazole. The crude material was purified by chromatography (SiO2, ethyl acetate/heptane) to yield the title compound as a yellow solid (yield 18%). MS (m/e): 481.0 (M+H+, 100%).

reactant | 2-morpholin-4-yl-5-nitro-benzoic acid | N1(CCOCC1)C1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C11H12N2O5
reactant | 3-phenyl-5-piperazino-1,2,4-thiadiazole | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
product | (2-Morpholin-4-yl-5-nitro-phenyl)-[4-(3-phenyl-[1,2,4]thiadiazol-5-yl)-piperazin-1-yl]-methanone | yield 18% | N1(CCOCC1)C1=C(C=C(C=C1)[N+](=O)[O-])C(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C23H24N6O4S
